US08624036B2
In a 250 ml round-bottomed flask equipped with condenser and magnetic stirrer, a solution of methyl 2-[4-(carbamothioylamino)phenyl]propanoate (10.7 g, 48.4 mmol) in 1,4-dioxane (200 ml) was treated at room temperature with 3-bromo-1,1,1-trifluoro-propan-2-one (5 ml, 48.4 mmol) and the reaction mixture was refluxed for 2 h. After cooling at room temperature, the solvent was distilled under vacuum, the residue dissolved in CH2Cl2 (200 ml), washed with a saturated solution of NaHCO3 (3×100 ml), dried over anhydrous Na2SO4 and evaporated under vacuum to give pure methyl 2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoate (12.8 g, 38.7 mmol) as yellow oil (80%).

reactant | methyl 2-[4-(carbamothioylamino)phenyl]propanoate | 48.4 mmol, 10.7 g | C(N)(=S)NC1=CC=C(C=C1)C(C(=O)OC)C | C11H14N2O2S
reactant | 3-bromo-1,1,1-trifluoro-propan-2-one | 48.4 mmol, 5 ml | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoate | 38.7 mmol, 12.8 g, 80% | FC(C=1N=C(SC1)NC1=CC=C(C=C1)C(C(=O)OC)C)(F)F | C14H13F3N2O2S
